US07790728B2
5-(3-Fluorophenyl)-6-pyridin-4-ylpyrazine-2,3-diamine
A mixture of 5-(3-fluorophenyl)-6-pyridin-4-yl[1,2,5]thiadiazolo[3,4-b]pyrazine (Preparation 11) (1.6 g, 5.2 mmol) in ammonia solution (32%, 30 mL) was stirred and heated under reflux for 1 h. The reaction was allowed to cool to room temperature, diluted with water and the suspension obtained was filtered to provide the title compound as a brown solid (0.7 g, 48%).

reactant | 5-(3-fluorophenyl)-6-pyridin-4-yl[1,2,5]thiadiazolo[3,4-b]pyrazine | 5.2 mmol, 1.6 g | FC=1C=C(C=CC1)C1=NC=2C(N=C1C1=CC=NC=C1)=NSN2 | C15H8FN5S
solvent | ammonia | 30 mL | N | H3N
solvent | water | O | H2O
product | 5-(3-Fluorophenyl)-6-pyridin-4-ylpyrazine-2,3-diamine | 0.7 g, 48% | FC=1C=C(C=CC1)C=1N=C(C(=NC1C1=CC=NC=C1)N)N | C15H12FN5
